US07973078B2
830 mg of methyl 4-cyanopyridine-2-carboxylate was dissolved in 20.0 mL of ethanol and 20.0 mL of aqueous ammonia, and 160 mg of Raney nickel was added thereto, followed by stirring at room temperature for 4 hours under a hydrogen atmosphere. The reaction liquid was filtered through Celite, the filtrate was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=10:1) to obtain 410 mg of 4-(aminomethyl)pyridine-2-carboxamide.

reactant | methyl 4-cyanopyridine-2-carboxylate | 830 mg | C(#N)C1=CC(=NC=C1)C(=O)OC | C8H6N2O2
reactant | ammonia | 20.0 mL | N | H3N
solvent | ethanol | 20.0 mL | C(C)O | C2H6O
catalyst | Raney nickel | 160 mg | [Ni] | Ni
product | 4-(aminomethyl)pyridine-2-carboxamide | 410 mg | NCC1=CC(=NC=C1)C(=O)N | C7H9N3O
